US06897224B2
4-(5-Fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-1-(2-(trifluoromethyl)quinolin-5-ylimino)pentan-2-ol
Analogously to Example 37, 250 mg (1.18 mmol) of 5-amino-2-(trifluoromethyl)quinoline is reacted with 438 mg (1.42 mmol) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 1.30 ml of concentrated acetic acid in 20 ml of toluene. After chromatography on silica gel with hexane-ethyl acetate (0-100%), 500 mg (84% of theory) of the product is obtained.

reactant | 5-amino-2-(trifluoromethyl)quinoline | 1.18 mmol, 250 mg | NC1=C2C=CC(=NC2=CC=C1)C(F)(F)F | C10H7F3N2
reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 1.42 mmol, 438 mg | FC=1C=CC(=C(C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | acetic acid | 1.30 ml | C(C)(=O)O | C2H4O2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(5-Fluoro-2-methoxyphenyl)-4-methyl-2-trifluoromethyl-1-(2-(trifluoromethyl)quinolin-5-ylimino)pentan-2-ol | FC=1C=CC(=C(C1)C(CC(C=NC1=C2C=CC(=NC2=CC=C1)C(F)(F)F)(O)C(F)(F)F)(C)C)OC | C24H21F7N2O2
